US08664220B2
Step 3: 2-Methyl-2-{4′-[3-methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester
Prepared according to the procedure described in Example 134, Step 3, using 2-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-2-methyl-propionic acid ethyl ester and 2-bromo-6-phenyl-pyridine.

reactant | 2-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N)=O | C22H24N2O3
reactant | 2-bromo-6-phenyl-pyridine | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
product | 2-Methyl-2-{4′-[3-methyl-4-(6-phenyl-pyridin-2-ylamino)-isoxazol-5-yl]-biphenyl-4-yl}-propionic acid ethyl ester | C(C)OC(C(C)(C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)C1=CC=CC=C1)C)=O | C33H31N3O3
